US06713474B2
Dimethylsulfoxide (0.040 g, 0.51 mmol) was added into a solution of oxalyl chloride (0.033 g, 0.26 mmol) in dichloromethane (3 mL) at −78° C. The mixture was allowed to warm up to −40° C. and stirred for 15 minutes followed by cooling down to −78° C. again. 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}-1-ethanol (0.10 g, 0.23 mmol) was added followed by triethylamine (0.12 mg, 1.165 mmol). The mixture was allowed to warm up to 0° C. and saturated aqueous sodium bicarbonate solution (10 mL) was added to quench the reaction. The organic layer was separated from the aqueous layer and washed with 10% aqueous sodium hydorgensulfate solution (4 mL), saturated aqueous sodium bicarbonate solution (4 mL) and saturated aqueous sodium chloride (4 mL). The organic layer was dried over magnesium sulfate and the solvent was removed under reduced pressure. The residue was purified by flash chromatography on silica gel using methanol/dichloromethane(5:95) as a mobile phase to yield 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}acetaldehyde (0.053 g, 0.12 mmol) as a white solid: 1H NMR (CDCl3, 400 MHz) δ 9.81(s, 1H), 8.33(s, 1H), 7.68(m, 1H), 7.43(d, 2H), 7.38(t, 2H), 7.15(t, 1H), 7.07(m, 4H), 5.14 (br, 2H), 4.72(m, 1H), 2.63-1.72(m, 11H); TLC (methanol/dichloromethane=5:95) Rf 0.41. MS: MH+ 427.

reactant | Dimethylsulfoxide | 0.51 mmol, 0.040 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.26 mmol, 0.033 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}-1-ethanol | 0.23 mmol, 0.10 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCC(CC2)CCO | C26H28N4O2
reactant | triethylamine | 1.165 mmol, 0.12 mg | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyl}acetaldehyde | 0.12 mmol, 0.053 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCC(CC2)CC=O | C26H26N4O2
